US06002008
4-[(4-Bromophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 200 ml ethanol, and 4.42 g (25.8 mmol) p-bromoaniline was heated to reflux under N2 for 3 hours. Removed heat and added saturated sodium bicarbonate until basic. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane, collected solids, and air dried. Washed with water and dried in vacuo. Boiled in 1.4 liters ethyl acetate, and without completely dissolving all solids, stirred with Darco, and filtered. Stripped solvent and dried in vacuo, giving 3.524 g of yellow solid: mass spectrum (electrospray m/e): M+H=369, 370.9.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | p-bromoaniline | 25.8 mmol, 4.42 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-[(4-Bromophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 3.524 g | BrC1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9BrN4O2
